US09193731B2
6-{4-[(3-Amino-propylamino)-methyl]-phenyl}-1H-imidazo[1,2-a]pyrimidin-7-one hydrochloride salt (hydrochloride salt of compound 563):
{(3-{tert-Butoxycarbonyl-[4-(7-oxo-1,7-dihydro-imidazo[1,2-a]pyrimidin-6-yl)-benzyl]-amino}-propyl)-carbamic acid tert-butyl ester (48 mg, 0.097 mmol) was dissolved in CH2Cl2 (5 mL), TFA (1 mL) was added and stirred at room temperature for 2 h. The reaction mixture was concentrated and 3 mL of 0.6 N HCl and 2 mL of acetonitrile were added and stirred for 0.5 h, concentrated to a ca. 3 mL and lyophilized to give the title compound (35 mg, 100%). 1NMR (300 MHz, CD3OD): δ 8.90 (s, 1H), 7.79 (s, 1H), 7.77 (d, J=8.2 Hz, 2H), 7.70 (d, J=8.2 Hz, 2H), 7.67 (s, 1H), 4.33 (s, 2H), 3.23 (t, J=8.1 Hz, 2H), 3.06 (t, J=7.5 Hz, 2H), 2.15 (m, 2H). LCMS (EI) m/z: 297.1 (M+H+).

reactant | (3-{tert-Butoxycarbonyl-[4-(7-oxo-1,7-dihydro-imidazo[1,2-a]pyrimidin-6-yl)-benzyl]-amino}-propyl)-carbamic acid tert-butyl ester | 0.097 mmol, 48 mg | C(C)(C)(C)OC(NCCCN(CC1=CC=C(C=C1)C=1C(N=C2N(C1)C=CN2)=O)C(=O)OC(C)(C)C)=O | C26H35N5O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-{4-[(3-Amino-propylamino)-methyl]-phenyl}-1H-imidazo[1,2-a]pyrimidin-7-one hydrochloride salt | 35 mg, 100% | Cl.NCCCNCC1=CC=C(C=C1)C=1C(N=C2N(C1)C=CN2)=O | InChI=1S/C16H19N5O.ClH/c17-6-1-7-18-10-12-2-4-13(5-3-12)14-11-21-9-8-19-16(21)20-15(14)22;/h2-5,8-9,11,18H,1,6-7,10,17H2,(H,19,20,22);1H
